US05051431
A dispersion of 780 mg (17.7 mmol) of 60% sodium hydride in mineral oil and10 ml of DMF is treated, dropwise, with a solution of 2.00 g (8.8 mmol) of 5-(2-hydroxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridine carbonitrile in 20 ml of DMF. The reaction is stirred 30 min at RT, then cooled in an ice bath and 1.72 g (8.8 mmol) of ethyl 4-bromobutyrate in 10 ml of DMF is added dropwise. The reaction is allowed to slowly come to RT and stirred overnight under N2. The mixture is then concentrated under vacuum, the residue taken up in 80 ml of water, and extracted with EtOAc (2×25 ml). The aqueous phase is acidified to pH=5 with 10% HCl and extracted with EtOAc (4×80 ml). The EtOAc extracts are dried (MgSO4) and the solvent removed to leave an orange oil. This oil is crystallized from EtOAc-hexane to give 1.61 g of 5-(2-carboethoxypropyloxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile as a light yellow solid, m.p. 167°-170° C. Yield, 54%. 1H-NMR (d6 -DMSO): δ 1.18 (t,3H); 1.88 (m,2H); 2.10 (s, 3H); 2.37 (t, 2H); 3.97 (q,2H); 7.00 (t,2H); 7.10 (d,1H); 7.20 (d,1H);7.40 (t,1H); 7.97 (s,1H).

reactant | sodium hydride | 17.7 mmol, 780 mg | [H-].[Na+]
reactant | 5-(2-hydroxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridine carbonitrile | 8.8 mmol, 2.00 g | OC1=C(C=CC=C1)C=1C=C(C(NC1C)=O)C#N | C13H10N2O2
reactant | ethyl 4-bromobutyrate | 8.8 mmol, 1.72 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(2-carboethoxypropyloxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 1.61 g | C(=O)(OCC)C(COC1=C(C=CC=C1)C=1C=C(C(NC1C)=O)C#N)C | C19H20N2O4
